### PR TITLE
Add Erdős Problem 903 (number of blocks of a pairwise balanced design), link the formal proof

### LINKED ISSUE #1013: Erdős Problem 903
### What is the conjecture

https://www.erdosproblems.com/903

  Let $n=p^2+p+1$ for some prime power $p$, and let $A_1,\ldots,A_t\subseteq \\{1,\ldots,n\\}$ be a block design (so that every pair $x,y\in \\{1,\ldots,n\\}$ is contained in exactly one $A_i$).

Is it true that if $t>n$ then $t\geq n+p$?

Status:  solved

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1013.

### What changed
Adds `FormalConjectures/ErdosProblems/903.lean` with `IsBlockDesign A` (blocks of size `≥ 2`, every pair of points in exactly one block) and:
- `erdos_903` (`research solved`, `answer(True)`): for a prime power `p` and `n = p²+p+1`, a block design on `n` points with `t > n` blocks has `t ≥ n + p` (Erdős–Fowler–Sós–Wilson [EFSW85]). Linked to plby/lean-proofs `Erdos903.erdos_903` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_903.variants.general` (also linked): the same for every `p ≥ 2`.
- `erdos_903.variants.de_bruijn_erdos`: `t ≥ n` when no block contains all points [dBEr48].

(Blocks of size `≥ 2` are required, as otherwise adding an empty block gives `t = n + 1`.)

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos903.erdos_903` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both linked statements on top of a renamed copy, same axioms (the design predicates are definitionally equal):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge903

lemma isBlockDesign_iff {n t : ℕ} (A : Fin t → Finset (Fin n)) :
    Erdos903.IsBlockDesign A ↔ Erdos903Plby.PairwiseBalanced A := Iff.rfl

theorem erdos_903_bridge : type_of% Erdos903.erdos_903 := by
  show True ↔ _
  simp only [true_iff]
  intro p hp t A hA hlt
  exact Erdos903Plby.erdos_903 p t hp A ((isBlockDesign_iff A).1 hA) hlt

theorem erdos_903_general_bridge : type_of% Erdos903.erdos_903.variants.general := by
  intro p hp t A hA hlt
  exact Erdos903Plby.erdos_903_general p t A hp ((isBlockDesign_iff A).1 hA) hlt

end Bridge903
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«903»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/903.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+
+namespace Erdos903
+
+/--
+A family of blocks `A 0, …, A (t - 1)` of `{0, …, n - 1}` is a *block design* (pairwise balanced
+design) if every block has at least two points and every pair of distinct points is contained in
+exactly one block.
+-/
+def IsBlockDesign {n t : ℕ} (A : Fin t → Finset (Fin n)) : Prop :=
+  (∀ i, 2 ≤ (A i).card) ∧ ∀ x y : Fin n, x ≠ y → ∃! i, x ∈ A i ∧ y ∈ A i
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/903.lean:43]: Isn't this Mathlib's Configuration.HasLines + Nondegenerate? Let's use it then

File: FormalConjectures/ErdosProblems/903.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+    ∀ (t : ℕ) (A : Fin t → Finset (Fin (p ^ 2 + p + 1))), IsBlockDesign A →
+      p ^ 2 + p + 1 < t → p ^ 2 + p + 1 + p ≤ t := by
+  sorry
+
+/--
+A theorem of Erdős and de Bruijn [dBEr48] states that a block design on $n$ points in which no
+block contains all the points has $t\geq n$ blocks.
+-/
+@[category research solved, AMS 5]
+theorem erdos_903.variants.de_bruijn_erdos : ∀ (n t : ℕ) (A : Fin t → Finset (Fin n)), 2 ≤ n →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/903.lean:80]: Is this `Configuration.HasLines.card_le`? If so, ;ets add the proof!

**Review by mo271 — COMMENTED** [review]
thanks!
